US07645789B2
Ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate (392 mg, 1.0 mmol) and LiOH (126 mg, 3 mmol) were dissolved in H2O (5 mL) and 1,4-dioxane (3 mL). The mixture was heated in an oil bath at 100° C. for 24 hours before it was cooled to room temperature. The mixture was acidified with 1N HCl and it was extracted with three 20 mL portions of dichloromethane. The organic extracts were dried over Na2SO4 and evaporated to yield 5-(1-(benzo[d][1,3]-dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylic acid (302 mg, 83%). A small amount was further purified by reverse phase HPLC. ESI-MS m/z calc. 364.1, found 365.1 (M+1)+; retention time 2.70 minutes.

reactant | Ethyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylate | 1.0 mmol, 392 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(=O)OCC | C22H20N2O5
reactant | LiOH | 3 mmol, 126 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 5 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-(1-(benzo[d][1,3]-dioxol-5-yl)cyclopropanecarboxamido)-1H-indole-2-carboxylic acid | 302 mg, 83% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(=O)O | C20H16N2O5
